US07115611B2
C] 2-[5-Chloromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-ethanol
In analogy to the procedures described in examples 103A], 5-chloromethyl-4-(2-methoxy-ethyl)-2-(4-trifluoromethyl-phenyl)-pyrimidine and BBr3 (1M in dichloromethane) gave the title compound as a yellow oil, which was used without further purification. MS: 317.1 (M+H, Cl)+.

reactant | 5-chloromethyl-4-(2-methoxy-ethyl)-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)CCOC | C15H14ClF3N2O
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
product | 2-[5-Chloromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-ethanol | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)CCO | C14H12ClF3N2O
